US05424306
(4R)-4-Acetylthio-2-oxopyrrolidine
380 mg of (4S)-4-hydroxy-2-oxopyrrolidine were suspended in 21 ml of anhydrous tetrahydrofuran, and 1.18 g of triphenylphosphine were added to the suspension at room temperature. 783 mg of diethyl azodicarboxylate were then added dropwise to the solution, whilst maintaining a temperature of -30° C. The mixture was then gradually heated to 4° C., after which the mixture was stirred at the same temperature for 30 minutes to produce a homogeneous mixture. At the end of this time, the reaction mixture was cooled to -20° C., and then 320 μl of thioacetic acid were added dropwise to the cooled mixture. The resulting mixture was gradually heated to a temperature equivalent to ice-cooling; and the mixture was stirred for 1.5 hours at that temperature. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and then subjected to column chromatography (Merck 9385, 60 ml) through silica gel using a gradient elution method, with mixtures of benzene and acetonitrile ranging from 2:1 and 1:1 by volume as the eluent. The desired fraction was concentrated by evaporation under reduced pressure to give 69 mg of a crystalline residue. This residue was recrystallized from a mixture of ethyl acetate and cyclohexane to give 54 mg of the title compound as crystals.

reactant | (4S)-4-hydroxy-2-oxopyrrolidine | 380 mg | O[C@H]1CC(NC1)=O | C4H7NO2
reactant | triphenylphosphine | 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 783 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 320 μl | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | (4R)-4-Acetylthio-2-oxopyrrolidine | 69 mg | C(C)(=O)S[C@@H]1CC(NC1)=O | C6H9NO2S
